US06025370
In 75 ml of anhydrous tetrahydrofuran was dissolved 15.0 g of (+)-5-bromo-1-methyl-2-trityliso-indoline, and the solution was cooled to -72° C. under a nitrogen atmosphere, after which 22.3 ml of a 1.63 M solution of n-butyllithium in n-hexane was added dropwise thereto over a period of 15 minutes, and the resulting mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added dropwise 7.45 g of triisopropoxyborane at -72° C. over a period of 20 minutes, and the resulting mixtuere was stirred at the same temperature for 30 minutes. The reaction mixture was added to 75 ml of ice water and the pH was adjusted to 6.8 with lN hydrochloric acid, after which the organic layer was separated. The organic layer obtained was washed with water, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. Cyclohexane was added to the resulting residue and the crystals were collected by filtration to obtain 11.2 g ofcolorless (+)-1-methyl-2-tritylisoindoline-5-boronic acid.

reactant | (+)-5-bromo-1-methyl-2-trityliso-indoline | 15.0 g | BrC=1C=C2CN(C(C2=CC1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropoxyborane | 7.45 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | (+)-1-methyl-2-tritylisoindoline-5-boronic acid | 11.2 g | CC1N(CC2=CC(=CC=C12)B(O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26BNO2
